US07230020B2
Reaction of 2-thiopheneethylamine (50 μL, 0.42 mmol) in THF (2.5 mL) with 4-propylbenzoyl chloride (92 μL, 0.55 mmol) in presence of triethylamine (78 μL, 0.55 mmol) according to method A gave 4-propyl-N-(2-thiophen-2-yl-ethyl)-benzamide (100 mg, 0.36 mmol, 85% yield) as a off-white powder after purification on silica gel (eluent: EtOAc/hexane 5/95 to 20/80).

reactant | 2-thiopheneethylamine | 0.42 mmol, 50 μL | S1C(=CC=C1)CCN | C6H9NS
reactant | 4-propylbenzoyl chloride | 0.55 mmol, 92 μL | C(CC)C1=CC=C(C(=O)Cl)C=C1 | C10H11ClO
reactant | triethylamine | 0.55 mmol, 78 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 4-propyl-N-(2-thiophen-2-yl-ethyl)-benzamide | 0.36 mmol, 100 mg, 85% yield | C(CC)C1=CC=C(C(=O)NCCC=2SC=CC2)C=C1 | C16H19NOS
